* Z:\mnt\design.r\spice\examples\ADP2165-2.5.asc
C1 N008 0 2n
L1 N004 OUT 1.5µ
C2 N003 N004 .1µ
C3 OUT 0 70µ
R1 N005 0 100K
C5 N006 0 680p
R2 N007 N006 36K
V1 IN 0 5
R3 OUT N001 100K
C4 N002 0 1µ
C6 N007 0 1p
Rload OUT 0 .5
XU1 N002 N005 N002 OUT 0 0 N004 IN IN IN N001 N008 N007 N003 N002 ADP2165-x.x Rtop=760K Rbot=240K
.tran 1m startup
.lib ADP2165-x.x.sub
.backanno
.end
